US05700801
a) N-[1-Benzyl-4-piperidinyl]-N-methyl-glycine methyl ester dihydrochloride
Prepared from N-[1-benzyl-4-piperidinyl]glycine methyl ester dihydrochloride, paraformaldehyde and sodium cyanoborohydride.

reactant | N-[1-benzyl-4-piperidinyl]glycine methyl ester dihydrochloride | Cl.Cl.COC(CNC1CCN(CC1)CC1=CC=CC=C1)=O
reactant | paraformaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-Benzyl-4-piperidinyl]-N-methyl-glycine methyl ester dihydrochloride | Cl.Cl.COC(CN(C)C1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C16H24N2O2.2ClH/c1-17(13-16(19)20-2)15-8-10-18(11-9-15)12-14-6-4-3-5-7-14;;/h3-7,15H,8-13H2,1-2H3;2*1H
